US06713455B2
Step A: 3-Bromo-5-(2-pyridinyl)-pyridine
A solution of 3,5-dibromopyridine (2.5 g, 10.5 mmol), PPh3 (210 mg, 0.8 mmol) in degassed THF (2 mL) was treated with Pd2(dba)3 (Tris(dibenzylideneacetone)dipalladium (0), 91.5 mg, 0.1 mmol) at 25° C. under N2. A solution of 2-pyridinyl zinc chloride (21 mL, 0.5 M in THF, Aldrich) in THF was added and the resulting solution was warmed to reflux for 16 h. The solution was allowed to cool to room temperature, diluted with EtOAc (200 mL), washed with water (2×100 mL), dried (MgSO4), filtered and was concentrated in vacuo. Purification by flash chromatography (EtOAc) afforded the title compound as a white solid. MS 236 (M+H)+.

reactant | 3,5-dibromopyridine | 10.5 mmol, 2.5 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | PPh3 | 0.8 mmol, 210 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-pyridinyl zinc chloride | 0.5 M, 21 mL | [Cl-].N1=C(C=CC=C1)[Zn+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.1 mmol, 91.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Bromo-5-(2-pyridinyl)-pyridine | BrC=1C=NC=C(C1)C1=NC=CC=C1 | C10H7BrN2
